US06831094B2
Preparation of 1-(Phenylsulfonyl)-4-[(2R)-pyrrolidin-2-ylmethoxy]-1H-indole hydrochloride
A solution of t-butyl (2R)-2-[(1H-indol-4-yloxy)methyl]pyrrolidine-1-carboxylate (0.316 g, 1.0 mmol) in THF is treated with potassium t-butoxide (1.5 mL, 1.5 mmol, 1M in THF) at room temperature, stirred for 3 min, treated with benzenesulfonyl chloride (0.264 g, 1.5 mmol), stirred for 6 h under nitrogen at room temperature, quenched with IN aqueous HCl and water and diluted with EtOAc. The organic phase is separated, washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo. The resultant residue is treated with HCl (1.5 mL, 1N in Et2O), heated at reflux temperature for 3 h, cooled to room temperature and filtered. The filtercake is air-dried to afford the title compound as an off-white solid, 0.24 g, mp 204-206° C., identified by NMR and mass spectral analyses.

reactant | t-butyl (2R)-2-[(1H-indol-4-yloxy)methyl]pyrrolidine-1-carboxylate | 1.0 mmol, 0.316 g | N1C=CC2=C(C=CC=C12)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C18H24N2O3
reactant | potassium t-butoxide | 1.5 mmol, 1M, 1.5 mL | CC(C)([O-])C.[K+]
reactant | benzenesulfonyl chloride | 1.5 mmol, 0.264 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | C1CCOC1 | C4H8O
product | 1-(Phenylsulfonyl)-4-[(2R)-pyrrolidin-2-ylmethoxy]-1H-indole hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OC[C@@H]1NCCC1 | InChI=1S/C19H20N2O3S.ClH/c22-25(23,16-7-2-1-3-8-16)21-13-11-17-18(21)9-4-10-19(17)24-14-15-6-5-12-20-15;/h1-4,7-11,13,15,20H,5-6,12,14H2;1H/t15-;/m1./s1
